US04994479
A mixture of 860 mg of vaniline, 1.00 g of 4-bromobutylbenzene, 1.00 g of potassium carbonate and 8 ml of 2-butanone was heated under reflux for 3 hours. The reaction mixture was poured into water and the product was extracted with ether. The ethereal layer was washed with water, dried and concentrated. The obtained residue was applied to silica gel column chromatography and eluted with toluene to obtain 500 mg of 4-(4-phenylbutoxy)-3-methoxybenzaldehyde.

reactant | vaniline | 860 mg | COC1=C(C=CC(=C1)C=O)O | C8H8O3
reactant | 4-bromobutylbenzene | 1.00 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 8 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 4-(4-phenylbutoxy)-3-methoxybenzaldehyde | 500 mg | C1(=CC=CC=C1)CCCCOC1=C(C=C(C=O)C=C1)OC | C18H20O3
